US08138176B2
b) 4-(5-Methyl-5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazin-5-yl)phenol
A mixture of 3.6 mmol of 5-(4-methoxyphenyl)-5-methyl-5,6-dihydro-8H-imidazo[5,1-c][1,4]-oxazine and 10 ml of trimethylsilyl iodide in 40 ml of acetonitrile is heated to reflux for 24 hours. 10 ml of methanol are cautiously added and heating to reflux is continued for 30 minutes. The reaction mixture is evaporated. The title compound is identified from the residue on the basis of the Rf by flash chromatography (SiO2 60 F).

reactant | 5-(4-methoxyphenyl)-5-methyl-5,6-dihydro-8H-imidazo[5,1-c][1,4]-oxazine | 3.6 mmol | COC1=CC=C(C=C1)C1(N2C(COC1)=CN=C2)C | C14H16N2O2
reactant | trimethylsilyl iodide | 10 ml | C[Si](C)(C)I | C3H9ISi
reactant | methanol | 10 ml | CO | CH4O
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-(5-Methyl-5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazin-5-yl)phenol | CC1(N2C(COC1)=CN=C2)C2=CC=C(C=C2)O | C13H14N2O2
